US05789623
Preparation of 2-(dibenzophosphol-9-yl)-2'-hydroxybiphenyl
46 ml of a 1.6M solution of butyllithium in hexane are added dropwise to a solution of 11.4 g (36.54 mmol) of 2,2'-dibromobiphenyl in 60 ml of diethyl ether. The mixture is then stirred for 24 hours at 20° C. To this is then added, at 0C, a solution of 8.6 g (36.5 mmol) of 6-chloro-6H-dibenz[c,e][1,2]oxaphosphorine in 30 ml of o-xylene. The mixture is then stirred for a further 2 hours at 25° C. and 3 hours at 50° C. The mixture is cooled to room temperature and 100 ml of water are carefully added. The mixture is neutralized with dilute hydrochloric acid, the organic phase is separated off, dried with sodium sulfate and concentrated under reduced pressure. By crystallization of the residue with 2-butanone, 11.8 g (90%) of colorless crystals having melting point 152° to 155° C. are obtained.

reactant | butyllithium | C(CCC)[Li]
reactant | 2,2'-dibromobiphenyl | 36.54 mmol, 11.4 g | BrC1=C(C=CC=C1)C1=C(C=CC=C1)Br | C12H8Br2
reactant | 6-chloro-6H-dibenz[c,e][1,2]oxaphosphorine | 36.5 mmol, 8.6 g | ClP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C12H8ClOP
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | o-xylene | 30 ml | CC=1C=CC=CC1C | C8H10
solvent | water | 100 ml | O | H2O
product | 2-(dibenzophosphol-9-yl)-2'-hydroxybiphenyl | C1=CC=CC=2PC3=C(C21)C(=CC=C3)C3=C(C=CC=C3)C3=C(C=CC=C3)O | C24H17OP
